US04737511
4-(4-Fluoro-3-nitrophenyl)-1,5-dihydro-3-methyl-2H-pyrrol-2-one
In a manner similar to that described in Preparation 8, 4-(4-fluorophenyl)-1,5-dihydro-3-methyl-2H-pyrrol-2-one is reacted with nitric acid to provide the title compound.

reactant | 4-(4-fluorophenyl)-1,5-dihydro-3-methyl-2H-pyrrol-2-one | FC1=CC=C(C=C1)C1=C(C(NC1)=O)C | C11H10FNO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-(4-Fluoro-3-nitrophenyl)-1,5-dihydro-3-methyl-2H-pyrrol-2-one | FC1=C(C=C(C=C1)C1=C(C(NC1)=O)C)[N+](=O)[O-] | C11H9FN2O3
